US08404687B2
(R)-(4-(4-(4-Fluorophenyl)phthalazin-1-yl)piperazin-2-yl)methanol
Dissolve 1-chloro-4-(4-fluorophenyl)phthalazine (0.1 g, 0.39 mmol), (R)-piperazin-2-ylmethanol (0.07 g, 0.58 mmol) and diisopropylethylamine (0.34 mL, 1.93 mmol) in DMSO (1 mL). Stir the reaction at 120° C. for 64 h. Purify the reaction mixture by flash silica gel chromatography (0-10% 2 M ammonia/MeOH in CH2Cl2) to yield the title compound as a brown solid (0.11 g, 84%). ES/MS m/z 339.0 (M+1).

reactant | 1-chloro-4-(4-fluorophenyl)phthalazine | 0.39 mmol, 0.1 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | (R)-piperazin-2-ylmethanol | 0.58 mmol, 0.07 g | N1[C@H](CNCC1)CO | C5H12N2O
reactant | diisopropylethylamine | 1.93 mmol, 0.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-(4-(4-(4-Fluorophenyl)phthalazin-1-yl)piperazin-2-yl)methanol | 0.11 g, 84% | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](NCC1)CO | C19H19FN4O
